US09056874B2
2-(2-(5-Methoxy-7-methyl-1H-indol-4-yl)propan-2-yl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of 2-(2-(5-methoxy-7-methyl-1-tosyl-1H-indol-4-yl)propan-2-yl)-1H-benzo[d]imidazole-5-carbonitrile (43 mg, 0.086 mmol) and KOH (48.4 mg, 0.862 mmol) and isoamylamine (150 μL, 1.29 mmol) in EtOH (1.2 mL) was heated at 100° C. under microwave irradiation for 2 h. The reaction mixture was loaded onto silica gel and was purified by silica gel flash chromatography (0-50% EtOAc:DCM), and then SFC using a 2-ethylpyridine column with 12% MeOH+0.2% DEA in CO2. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.19 (s, 1H) 10.88 (br. s., 1H) 8.08 (m) 7.66-7.76 (m) 7.37-7.53 (m) 7.04-7.18 (m, 1H) 6.73 (s, 1H) 5.89 (m) 5.83 (m) 3.45 (m) 3.43 (m) 2.43 (s, 3H) 1.90 (s, 6H). HRMS calcd. for C21H20N4O (M+H)+ 345.1715. found 345.1724.

reactant | 2-(2-(5-methoxy-7-methyl-1-tosyl-1H-indol-4-yl)propan-2-yl)-1H-benzo[d]imidazole-5-carbonitrile | 0.086 mmol, 43 mg | COC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(C)C1=NC2=C(N1)C=CC(=C2)C#N | C28H26N4O3S
reactant | KOH | 0.862 mmol, 48.4 mg | [OH-].[K+]
reactant | isoamylamine | 1.29 mmol, 150 μL | C(CC(C)C)N | C5H13N
solvent | EtOH | 1.2 mL | CCO | C2H6O
product | 2-(2-(5-Methoxy-7-methyl-1H-indol-4-yl)propan-2-yl)-1H-benzo[d]imidazole-5-carbonitrile | COC=1C(=C2C=CNC2=C(C1)C)C(C)(C)C1=NC2=C(N1)C=CC(=C2)C#N | C21H20N4O
